US08486952B2
(±)-2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-4-(methylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-5-one
A solution of 2-chloro-4-(methylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-5-one (Preparation AN) (7 mg) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (Preparation A) (7 mg) in THF (0.2 mL) and sulfuric acid (4 mg) was heated at 85° C. for 12 h. THF was removed in vacuo, and the residue was purified by reverse phase preparative to give the title compound (as its TFA salt) as a yellowish oil (9 mg). LC-MS (M+H)+=461.12. 1H NMR (500 MHz, CD3OD) δ ppm 7.80 (m), 7.1-7.4 (m), 4.50 (1H, m), 3.25 (1H, m), 2.56 (1H, m), 3.50 (3H, s), and 3.19 (3H, s).

reactant | 2-chloro-4-(methylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-5-one | ClC=1N=C(C2=C(N1)C(CC2=O)C2=CC=CC=C2)NC | C14H12ClN3O
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | sulfuric acid | 4 mg | S(O)(O)(=O)=O | H2O4S
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | (±)-2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-4-(methylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-5-one | 9 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2=O)C2=CC=CC=C2)NC)OC | C24H21ClN6O2
